US07893058B2
Step 1: 4-(5-Bromoimidazo[1,2-a]pyrazin-8-ylamino) benzoic acid methyl ester
A mixture of 5,8-dibromoimidazo[1,2-a]pyrazine (2 g, 7.3 mmol), 4-amino benzoic acid methyl ester (0.93 g, 6.2 mmol), NaOtBu (0.98 g, 10.2 mmol), Pd2(dba)3 (133 mg, 0.14 mmol), Xantphos (168 mg, 0.29 mmol) and toluene is degassed with nitrogen, then heated at 85° C. for 18 hours. The toluene is removed in vacuo, then MeOH is added to the crude residue. The solid is collected by filtration and dried in the vacuum oven. The solid is identified as the desired title ester. The filtrate is chromatographed with petrol:EtOAc (70:30 followed by 50:50) and the fractions containing the desired product, combined, evaporated and triturated with MeOH. The resultant solid is collected by filtration and is also identified as the desired ester.

reactant | 5,8-dibromoimidazo[1,2-a]pyrazine | 7.3 mmol, 2 g | BrC1=CN=C(C=2N1C=CN2)Br | C6H3Br2N3
reactant | 4-amino benzoic acid methyl ester | 6.2 mmol, 0.93 g | COC(C1=CC=C(C=C1)N)=O | C8H9NO2
reactant | NaOtBu | 10.2 mmol, 0.98 g | CC(C)(C)[O-].[Na+]
reactant | Xantphos | 0.29 mmol, 168 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
catalyst | Pd2(dba)3 | 0.14 mmol, 133 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-(5-Bromoimidazo[1,2-a]pyrazin-8-ylamino) benzoic acid methyl ester | COC(C1=CC=C(C=C1)NC=1C=2N(C(=CN1)Br)C=CN2)=O | C14H11BrN4O2
